US07671063B2
To a solution of N-(1-dimethylamino-methylidene)-2-nitro-6-hydroxy-benzenesulfonamide (847 mg, 3.1 mmol) in DMF (10 mL) NaH (135 mg, 55% dispersion in Nujol, 3.1 mmol) is added under argon. After stirring for 15 min 2,2,2-trifluoro-ethyl iodide (2777 mg, 12.4 mmol) is added, and stirring is continued for 20 h. Volatiles are evaporated under reduced pressure, and the residue is partitioned between EtOAc and water. The organic phase is washed with saturated brine, dried (Na2SO4) and evaporated. Chromatography of the residue (silica gel, hexanes/EtOAc/acetone 2:1:3) gives N-(1-dimethylamino-methylidene)-2-nitro-6-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide.

reactant | N-(1-dimethylamino-methylidene)-2-nitro-6-hydroxy-benzenesulfonamide | 3.1 mmol, 847 mg | CN(C=NS(=O)(=O)C1=C(C=CC=C1O)[N+](=O)[O-])C | C9H11N3O5S
reactant | DMF | 3.1 mmol, 10 mL, 135 mg | CN(C)C=O | C3H7NO
reactant | 2,2,2-trifluoro-ethyl iodide | 12.4 mmol, 2777 mg | FC(CI)(F)F | C2H2F3I
product | N-(1-dimethylamino-methylidene)-2-nitro-6-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide | CN(C=NS(=O)(=O)C1=C(C=CC=C1OCC(F)(F)F)[N+](=O)[O-])C | C11H12F3N3O5S
